US04966905
4-[2-[2,3-Dihydro-2-(4-fluorophenyl)-2-methyl-3-oxo-5-furanyl]ethenyl]benzonitrile
To a solution of p-cyanobenzaldehyde (1.6 g, 11.8 mM) and 2,5-dimethyl-2-(4-fluorophenyl)-3(2H)-furanone (2.0 g, 9.8 mM) in ethanol (75 mL), was added 1N aqueous sodium hydroxide (1.0 mL, 1 mM). After the reaction solution was stirred at room temperature for two days, saturated aqueous sodium chloride (400 mL) was added. The aqueous layer was extracted with dichloromethane (3×100 mL). The combined dichloromethane extracts were washed with saturated aqueous sodium chloride (50 mL), dried over MgSO4, filtered and concentrated to give an orange liquid. The crude product was purified by chromatography (silica gel, pet. ether-ethyl acetate) to give a yellow crystalline solid (1.2 g, 38% yield), m.p. 140°-142° C.

reactant | p-cyanobenzaldehyde | 11.8 mM, 1.6 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | 2,5-dimethyl-2-(4-fluorophenyl)-3(2H)-furanone | 9.8 mM, 2.0 g | CC1(OC(=CC1=O)C)C1=CC=C(C=C1)F | C12H11FO2
reactant | sodium hydroxide | 1N, 1.0 mL | [OH-].[Na+]
reactant | sodium chloride | 400 mL | [Cl-].[Na+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 4-[2-[2,3-Dihydro-2-(4-fluorophenyl)-2-methyl-3-oxo-5-furanyl]ethenyl]benzonitrile | 1.2 g, 38% yield | FC1=CC=C(C=C1)C1(OC(=CC1=O)C=CC1=CC=C(C#N)C=C1)C | C20H14FNO2
